US08304557B2
ethyl {[5-(3-{[(3-methylpyridin-2-yl) carbonyl]amino}phenoxy)pyridin-2-yl]carbamothioyl}carbamate
To a solution of N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (1.84 g, 5.75 mmol) in DMSO (20 mL) was added dropwise with stirring under ice-cooling ethyl isothiocyanatoformate (0.75 mL, 6.35 mmol), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (25%→40% ethyl acetate-hexane) to give the title compound (2.00 g, 77%) as a white solid.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 5.75 mmol, 1.84 g | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(=O)C1=NC=CC=C1C | C18H16N4O2
reactant | ethyl isothiocyanatoformate | 6.35 mmol, 0.75 mL | N(=C=S)C(=O)OCC | C4H5NO2S
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl {[5-(3-{[(3-methylpyridin-2-yl) carbonyl]amino}phenoxy)pyridin-2-yl]carbamothioyl}carbamate | 2.00 g, 77% | CC=1C(=NC=CC1)C(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=CC1 | C22H21N5O4S
